US05789412
26A: 1-(5,6,7,8-tetrahydronaphthalen-1-yl)piperazine
5,6,7,8-Tetrahydronaphthalen-1-ylamine (1.4 ml, 15 mmol) is brought to the reflux point of 1-butanol (50 ml) in the presence of bis(2-chloroethyl)amine hydrochloride (2.68 g, 15 mmol) and sodium carbonate (800 mg, 7.5 mmol). After 48 h, the reaction mixture is concentrated and impregnated onto silica and then purified by flash chromatography with a mixture (95/5/1) and then (90/9/1) of dichloromethane/methanol/aqueous ammonia.

reactant | 5,6,7,8-Tetrahydronaphthalen-1-ylamine | 15 mmol, 1.4 ml | C1(=CC=CC=2CCCCC12)N | C10H13N
reactant | bis(2-chloroethyl)amine hydrochloride | 15 mmol, 2.68 g | Cl.ClCCNCCCl
reactant | sodium carbonate | 7.5 mmol, 800 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 50 ml | C(CCC)O | C4H10O
product | 1-(5,6,7,8-tetrahydronaphthalen-1-yl)piperazine | C1(=CC=CC=2CCCCC12)N1CCNCC1 | C14H20N2
